US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (80.0 mg, 0.148 mmol) and 2,6-difluorophenyl isothiocyanate (57.0 μl, 0.441 mmol) instead of o-tolyl isothiocyanate, thiourea was formed in the same manner as Example 1-D-210, to obtain a crude product of 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carbothioic acid (2,6-difluoro-phenyl)-amide as a yellow solid (108 mg), and then the PMB groups were removed according to the above Deprotection method 3, to obtain the desired compound (D-225) as a yellow powder (59.4 mg, 85%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 0.148 mmol, 80.0 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 2,6-difluorophenyl isothiocyanate | 0.441 mmol, 57.0 μl | FC1=C(C(=CC=C1)F)N=C=S | C7H3F2NS
reactant | thiourea | NC(=S)N | CH4N2S
product | 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carbothioic acid (2,6-difluoro-phenyl)-amide | 108 mg | FC1=C(C(=CC=C1)F)NC(=S)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C37H36F2N8O3S
